US04393059
Sodium boron hydride (160 mg.) was added to a suspension of 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate (syn isomer, 1 g.) in tetrahydrofuran (10 ml.), acetic acid (3 ml.) and water (1 ml.) at 0° C. over 10 minutes, and stirred at 0° to 3° C. for 55 minutes. After water was added to the resultant solution, the solution was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, and dried over magnesium sulfate. The solution was concentrated under reduced pressure, and the residue was pulverized with diethyl ether to give 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxycepham-4-carboxylate (syn isomer, 0.77 g.), mp 172° to 175° C. (dec.).

reactant | Sodium boron hydride | 160 mg | B.[Na]
reactant | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate | 1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O9S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido]-3-hydroxycepham-4-carboxylate | 0.77 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H20N6O9S2
